US07763608B2
To a solution of 2,5-diiodobenzoic acid (1.00 g, 2.67 mmol) in anhydrous MeOH (15 mL) cooled in an ice-bath, SOCl2 (0.50 mL, 6.85 mmol) was cautiously added (exothermal reaction). After the addition, the solution was heated at reflux overnight. It was then concentrated in vacuo to give methyl 2,5-diiodobenzoate (1.04 g).

reactant | 2,5-diiodobenzoic acid | 2.67 mmol, 1.00 g | IC1=C(C(=O)O)C=C(C=C1)I | C7H4I2O2
reactant | SOCl2 | 6.85 mmol, 0.50 mL | O=S(Cl)Cl | Cl2OS
reactant | MeOH | 15 mL | CO | CH4O
product | methyl 2,5-diiodobenzoate | 1.04 g | IC1=C(C(=O)OC)C=C(C=C1)I | C8H6I2O2
